US07897612B2
17a) Ethyl 2-({[4-(1,1-dimethylethyl)phenyl]methyl}amino)-3-pyridinecarboxylate
A solution of ethyl 2-chloro-3-pyridinecarboxylate (0.610 g, 3.29 mmol) in ethanol (10.0 mL) was treated with 4-tert-butylbenzylamine (0.580 mL, 3.29 mmol). The mixture was heated to 160° C. for 1 h in a Biotage Initiator microwave synthesizer. The solution was diluted with ethyl acetate and washed with saturated aqueous sodium bicarbonate. The organic portion was dried over magnesium sulfate, filtered, and concentrated in vacuo. Purification via flash column chromatography (20-60% ethyl acetate in hexanes) afforded the title compound clear yellow oil (0.461 g, 45%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.34 (dd, J=4.8, 1.8 Hz, 1H), 8.18 (dd, J=7.8, 2.0 Hz, 1H), 7.30-7.42 (m, 4H), 6.58 (dd, J=7.6, 4.8 Hz, 1H), 4.75 (d, J=5.6 Hz, 2H), 4.34 (q, J=7.1 Hz, 2H), 1.39 (t, J=7.2 Hz, 3H), 1.34 (s, 9H). MS(ES+) m/e 313 [M+H]+.

reactant | ethyl 2-chloro-3-pyridinecarboxylate | 3.29 mmol, 0.610 g | ClC1=NC=CC=C1C(=O)OCC | C8H8ClNO2
reactant | 4-tert-butylbenzylamine | 3.29 mmol, 0.580 mL | C(C)(C)(C)C1=CC=C(CN)C=C1 | C11H17N
solvent | ethanol | 10.0 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 2-({[4-(1,1-dimethylethyl)phenyl]methyl}amino)-3-pyridinecarboxylate | CC(C)(C)C1=CC=C(C=C1)CNC1=NC=CC=C1C(=O)OCC | C19H24N2O2
